US08669271B2
1-(4-Benzofuran-2-yl-piperidin-1-yl)-2,2,2-trifluoro-ethanone
Trifluoroacetic anhydride (9.41 mL) is added dropwise to mixture of 4-benzofuran-2-yl-piperidine hydrochloride (8.00 g), and triethylamine (14.19 mL) in dichloromethane (80 mL) at 0° C. The resulting mixture is warmed to room temperature, washed with water and aqueous NaHCO3 solution, dried (MgSO4), and the solvent is evaporated. The crude product is used without further purification. Yield: 11.50 g (crude); LC (method 3): tR=1.39 min; Mass spectrum (ESI+): m/z=298 [M+H]+.

reactant | Trifluoroacetic anhydride | 9.41 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-benzofuran-2-yl-piperidine hydrochloride | 8.00 g | Cl.O1C(=CC=C2C1=CC=C2)N2CCCCC2
reactant | triethylamine | 14.19 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1-(4-Benzofuran-2-yl-piperidin-1-yl)-2,2,2-trifluoro-ethanone | O1C(=CC=C2C1=CC=C2)C2N(CCCC2)C(C(F)(F)F)=O | C15H14F3NO2
